US07504412B2
N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-3-[6-(trifluoromethyl)-3-pyridyl]propanamide
Conducting the operations similar to those of Example 1 using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 3-[6-(trifluoromethyl)-3-pyridyl]propionic acid, the title compound was obtained as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 3-[6-(trifluoromethyl)-3-pyridyl]propionic acid | FC(C1=CC=C(C=N1)CCC(=O)O)(F)F | C9H8F3NO2
product | N-(2-cyclopropyl-3-methylimidazo[1,2-a]pyridin-6-yl)-3-[6-(trifluoromethyl)-3-pyridyl]propanamide | C1(CC1)C=1N=C2N(C=C(C=C2)NC(CCC=2C=NC(=CC2)C(F)(F)F)=O)C1C | C20H19F3N4O
